US05026835
Example 2: 2'-DEOXY-2'-METHYLIDENE-N4 -DECANOYLCYTIDINE
2'-Deoxy-2'-methylidenecytidine, 239 mg, was dissolved in 5 ml of pyridine, and to the solution was added dropwise 0.63 ml of trimethylsilyl chloride under ice cooling. The mixture was stirred at room temperature for 5 minutes and then 0.83 ml of decanoyl chloride was added dropwise to the mixture under ice cooling, followed by stirring at room temperature for 2 hours. After the reaction, 2 ml of water was added to the reaction solution, stirring was conducted at room temperature for 5 minutes, and then 2 ml of concentrated ammonia water was added to the solution, followed by stirring for 15 minutes. After the reaction, the solution was partitioned with chloroform, and the chloroform layer was distilled off under reduced pressure. The residue was treated with a silica gel chromatography (elution solvent-chloroform: methanol=25:1) to give 179 mg of the objective compound as an oleaginous product. Yield: 45.6%

reactant | 2'-Deoxy-2'-methylidenecytidine | C=C1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C10H13N3O4
reactant | trimethylsilyl chloride | 0.63 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | decanoyl chloride | 0.83 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | ammonia water | 2 ml | O.N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 2 ml | O | H2O
product | 2'-DEOXY-2'-METHYLIDENE-N4 -DECANOYLCYTIDINE | 179 mg, Yield: 45.6% | C=C1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(NC(CCCCCCCCC)=O)C=C1 | C20H31N3O5
